US07196197B2
Preparation of methyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate
A solution of 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid (20 g) and thionyl chloride (15.0 g) in methanol (100 ml) was stirred at 80° C. for 2 hours. The solvents were evaporated under vacuum to give an oil residue. Toluene (100 ml) was added to the residue and the solution was washed with saturated NaHCO3 (30 ml) solution followed by water (3×30 ml). The organic layer was concentrated under reduced pressure to give the product as a white solid (20.5 g, yield 98.0%).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)benzoic acid | 20 g | FC(COC1=C(C(=O)O)C=C(C=C1)OCC(F)(F)F)(F)F | C11H8F6O4
reactant | thionyl chloride | 15.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 ml | CO | CH4O
product | methyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate | 20.5 g, yield 98.0% | FC(COC1=C(C(=O)OC)C=C(C=C1)OCC(F)(F)F)(F)F | C12H10F6O4
